US07320972B2
(3R,4S)-4-(4-Bromophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenylazetidin-2-one (45.1 mg, 0.10 mmol), bis(pinacolato)diboron (27.7 mg, 0.11 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (2.4 mg, 0.003 mmol), and potassium acetate (29.7 mg, 0.30 mmol) were dissolved in anhydrous dimethyl sulfoxide (600 μL). The vessel was evacuated and flushed with argon three times then sealed and heated at 80° C. for 16 h. LCMS analysis indicated that some starting material remained so an additional aliquot of catalyst and bis(pinacolato)diboron were added, the solution degassed and heating continued for 2 h. The reaction was diluted into dichloromethane (30 mL) and filtered through a plug of Celite®. The filtrate was washed 2×10 mL with water. The combined aqueous washed were back extracted with 3×10 mL dichloromethane. The combined organic phase was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The product was purified by chromatography (12 g silica gel, 20-50% ethyl acetate-hexane) to afford (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]azetidin-2-one (41.9 mg, 85% yield) as a tan foam; Rf (1:1 hexane-ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.81 (d, J=8.1 Hz, 1H), 7.35-7.18 (m, 9H), 7.04-6.97 (m, 3H), 4.70 (t, J=5.7 Hz, 1H), 4.65 (d, J=2.1 Hz, 1H), 3.08 (dt, J=7.7, 2.5, 1H), 2.02-1.87 (m, 4H), 1.33 (s, 12H) ppm.

reactant | (3R,4S)-4-(4-Bromophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenylazetidin-2-one | 0.10 mmol, 45.1 mg | BrC1=CC=C(C=C1)[C@@H]1[C@H](C(N1C1=CC=CC=C1)=O)CC[C@H](O)C1=CC=C(C=C1)F | C24H21BrFNO2
reactant | bis(pinacolato)diboron | 0.11 mmol, 27.7 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.30 mmol, 29.7 mg | C(C)(=O)[O-].[K+]
solvent | dimethyl sulfoxide | 600 μL | CS(=O)C | C2H6OS
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.003 mmol, 2.4 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenyl-4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]azetidin-2-one | 41.9 mg, 85% yield | FC1=CC=C(C=C1)[C@H](CC[C@H]1C(N([C@@H]1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)=O)O | C30H33BFNO4
